US04434101
0.530 g (2.65 mmoles) of (Z)-8-Hydroxy-7,7-dimethyl-5-octenoic acid methyl ester in 5 ml of methylene chloride was added slowly to a mixture of CrO3 (2.1 g; 21 mmol) and pyridine (3.5 g; 42 mmol) suspended in 55 ml of methylene chloride at room temperature. The reaction mixture was stirred for 5 hrs. The dichloromethane phase was decanted, and the precipitate was washed three times with ether. The organic phases were combined, washed with chilled 1 N sodium hydroxide, 1 N sulfuric acid, saturated sodium bicarbonate solution and brine then dried (MgSO4) and concentrated to give 0.53 g of crude material. Purification by chromatography or a silica gel column afforded 0.405 g (77.1%) of pure (Z)-8-Oxo-7,7-dimethyl-5-octenoic acid methyl ester (100% pure, by GC-analysis).

reactant | (Z)-8-Hydroxy-7,7-dimethyl-5-octenoic acid methyl ester | 2.65 mmoles, 0.530 g | COC(CCC\C=C/C(CO)(C)C)=O | C11H20O3
reactant | pyridine | 42 mmol, 3.5 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 55 ml | C(Cl)Cl | CH2Cl2
product | (Z)-8-Oxo-7,7-dimethyl-5-octenoic acid methyl ester | 0.405 g | COC(CCC\C=C/C(C=O)(C)C)=O | C11H18O3
